US07915267B2
[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]methanol
By a method similar to that in Reference Example 26 and using, instead of ethyl 3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propanoate, methyl 1-(triphenylmethyl)-1H-1,2,4-triazole-3-carboxylate obtained in Reference Example 34, the title compound was obtained as a white powder (5.35 g, 58%).

reactant | ethyl 3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propanoate | C1(=CC=CC=C1)C(N1N=C(N=C1)CCC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H25N3O2
reactant | methyl 1-(triphenylmethyl)-1H-1,2,4-triazole-3-carboxylate | C1(=CC=CC=C1)C(N1N=C(N=C1)C(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19N3O2
product | [1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]methanol | C1(=CC=CC=C1)C(N1N=C(N=C1)CO)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H19N3O
